US08871756B2
N-[2-(7-Bromo-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)-6-chloroquinolin-4-yl]ethane-1,2-diamine
The mixture of 7-bromo-2-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine (200 mg, 0.47 mmol) and ethane-1,2-diamine (0.5 mL) was heated with stirring in a 5 mL microwave process vial for 2 hours at 160° C. under microwave irradiation. The solvent was removed under reduced pressure, and the residue was purified by preparative HPLC to give 38 mg of product (yield was 18%). MS obsd. (ESI+) [(M+H)+] 445, 1H NMR (400 MHz, CD3OD) δ ppm 7.90 (d, J=2.4 Hz, 1 H), 7.49 (d, J=8.8 Hz, 1 H), 7.41 (m, 1 H), 7.35 (m, 1 H), 7.31 (m, 2 H), 5.99 (s, 1 H), 4.80 (s, 2 H), 4.13 (m, 2 H), 3.40 (m, 2 H), 3.00 (m, 4 H), 1.90 (m, 2 H).

reactant | 7-bromo-2-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine | 0.47 mmol, 200 mg | BrC=1C=CC2=C(CCCN(C2)C2=NC3=CC=C(C=C3C(=C2)Cl)Cl)C1 | C19H15BrCl2N2
reactant | ethane-1,2-diamine | 0.5 mL | C(CN)N | C2H8N2
product | N-[2-(7-Bromo-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)-6-chloroquinolin-4-yl]ethane-1,2-diamine | 38 mg, yield was 18% | BrC=1C=CC2=C(CCCN(C2)C2=NC3=CC=C(C=C3C(=C2)NCCN)Cl)C1 | C21H22BrClN4
